US05302727
16.9 g (0.1 mol) of N-methyl-2-(4-chlorophenyl)ethylamine were dissolved in 30 ml of dimethylformamide and treated with 20.7 g (0.3 mol) of anhydrous potassium carbonate. The mixture was stirred at 5° and treated with 12.6 ml (0.11 mol) of 1-bromo-2-methyl-3-chloropropane, whereupon the mixture was stirred at 30° for a further 4 hours, the solvent was evaporated at 30° under reduced pressure and the residue was treated with water. The separated oil was extracted three times with ether. The organic extracts were dried over magnesium sulphate and evaporated under reduced pressure. The residual oil was distilled at 135°-140°/260 Pa, whereby there was obtained rac-4-chloro-N-(3-chloro-2-methylpropyl)-N-methylphenethylamine as a colourless oil which was used directly in the next step. MS: 260 (M)+.

reactant | N-methyl-2-(4-chlorophenyl)ethylamine | 0.1 mol, 16.9 g | CNCCC1=CC=C(C=C1)Cl | C9H12ClN
reactant | potassium carbonate | 0.3 mol, 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-methyl-3-chloropropane | 0.11 mol, 12.6 ml | BrCC(CCl)C | C4H8BrCl
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | rac-4-chloro-N-(3-chloro-2-methylpropyl)-N-methylphenethylamine | ClC1=CC=C(CCN(C)CC(CCl)C)C=C1 | C13H19Cl2N
